US07384930B2
(S)-4-Chloro-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride (100 mg, 0.23 mmol) and 3-(piperidin-4-yl)quinolin-2(1H)-one (55 mg, 0.24 mmol) were reacted following a procedure analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as white solid in 41% yield. MS m/e (M+H)+=595.2. 1H NMR (500 MHz, DMSO-D6): δ=13.46 (s, 1H), 11.76 (s, 1H), 8.30 (d, J=5.19, 2H), 8.23 (s, 1H), 7.69 (d, J=19.84, 1H), 7.62 (m, 1H), 7.44 (m, 1H), 7.28 (d, J=7.93, 1H), 7.21 (s, 1H), 7.14 (m, 3H), 5.40 (d, J=17.09, 1H), 4.65 (m, 3H), 4.13 (d, J=13.43, 1H), 4.01 (m, 1H), 3.17 (d, J=14.95, 2H), 3.04 (m, 2H), 2.94 (m, 1H), 2.66 (m, 1H), 2.45 (m, 2H), 1.93 (d, J=11.60, 1H), 1.85 (d, J=12.82, 1H), 1.56 (m, 1H), 1.41 (m, 1H).

reactant | (S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride | 0.23 mmol, 100 mg | Cl.Cl.ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC2=CC=NC=C2
reactant | 3-(piperidin-4-yl)quinolin-2(1H)-one | 0.24 mmol, 55 mg | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-Chloro-7-(2-oxo-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)ethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 41% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)C=2C(NC1=CC=CC=C1C2)=O)=O)=O)CC2=CC=NC=C2 | C33H31ClN6O3
